US04423076
1-Isobutyl-3-(2-Chloroethyl) Urea.
Isobutylamine (7.3 g, 0.1 mol) was dissolved in 20 ml of diethyl ether and cooled to less than 5° C. Chloroethyl isocyanate (10.5 g, 0.1 mol) dissolved in 15 ml of ether was added maintaining a temperature between 0° and 5° C. with vigorous stirring. Stirring continued an additional 2 hrs. the mixture was cooled to -5° C., and the product (4.1 g, 46%) was filtered and dried in vacuo for 18 hrs. over KOH, MP 79.5° C. (decomposes). IR analysis showed peaks at 1630/cm (C=O) and 1585/cm (N--C=O). NMR: Doublet at 0.9 ppm (J=6.4 Hz), multiplet (1H) at 2.1 ppm, quartet (2H) at 2.9 ppm (J=6.4 Hz), multiplet (4H) at 3.5 ppm.

reactant | Isobutylamine | 0.1 mol, 7.3 g | C(C(C)C)N | C4H11N
reactant | Chloroethyl isocyanate | 0.1 mol, 10.5 g | ClCCN=C=O | C3H4ClNO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 1-Isobutyl-3-(2-Chloroethyl) Urea | C(C(C)C)NC(=O)NCCCl | C7H15ClN2O
